US06838463B2
To 5 ml of chloroform were added 0.57 ml of triethylamine and 0.5 g of 4-chloro-6-(2-butynyloxy)pyrimidine, to which 0.6 ml of a chloroform solution containing 0.33 g of thiophenol was slowly added dropwise, followed by stirring at room temperature for 8 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with chloroform. The chloroform layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.22 g of 4-(2-butynyloxy)-6-(thiophenoxy)pyrimidine (the present compound (97)).

reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 0.5 g | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | thiophenol | 0.33 g | C1(=CC=CC=C1)S | C6H6S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | chloroform | 0.6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-butynyloxy)-6-(thiophenoxy)pyrimidine | 0.22 g | C(C#CC)OC1=NC=NC(=C1)SC1=CC=CC=C1 | C14H12N2OS
